US09254251B2
Preparation of 5-adamantan-1-yl-N-(3,4-dihydroxybenzyl)-2-hydroxy-4-methoxybenzamide
0.17 g of the target compound is obtained as white solid in substantially the same manner as in (2) of Example 1, except for using 5-adamantan-1-yl-2-hydroxy-4-methoxybenzoic acid instead of 5-adamantan-1-yl-2,4-dihydroxybenzoic acid and using 3,4-dihydroxybenzylamine instead of dopamine.

reactant | 5-adamantan-1-yl-2-hydroxy-4-methoxybenzoic acid | C12(CC3CC(CC(C1)C3)C2)C=2C(=CC(=C(C(=O)O)C2)O)OC | C18H22O4
reactant | 3,4-dihydroxybenzylamine | OC=1C=C(CN)C=CC1O | C7H9NO2
product | 5-adamantan-1-yl-N-(3,4-dihydroxybenzyl)-2-hydroxy-4-methoxybenzamide | C12(CC3CC(CC(C1)C3)C2)C=2C(=CC(=C(C(=O)NCC3=CC(=C(C=C3)O)O)C2)O)OC | C25H29NO5
